US07585885B2
5-Dimethylsulfamoyl-isophthalic acid monomethyl ester
Dissolve commercially available 5-chlorosulfonyl-isophthalic acid dimethyl ester (422 mg, 1.43 mmol) in THF (10 mL) and add dimethylamine (2.0 M in THF, 2.5 mL, 5 mmol). Stir at room temperature 3 h, dilute with ethyl acetate, wash with 10% aqueous potassium carbonate, 0.1 N citric acid and saturated aqueous sodium chloride. Dry (magnesium sulfate), filter and concentrate. Dissolve the residue in acetone (10 mL) and methanol (5 mL). Add a solution of NaOH (60 mg, 1.43 mmol) in methanol (0.7 mL). Stir at room temperature 16 h and acidify with 1 N HCl to about pH=1. Partition between ethyl acetate and water, dry (magnesium sulfate) and concentrate to give the title compound.

reactant | 5-chlorosulfonyl-isophthalic acid dimethyl ester | 1.43 mmol, 422 mg | COC(C1=CC(C(=O)OC)=CC(=C1)S(=O)(=O)Cl)=O | C10H9ClO6S
reactant | dimethylamine | 5 mmol, 2.0 M, 2.5 mL | CNC | C2H7N
reactant | NaOH | 1.43 mmol, 60 mg | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 0.7 mL | CO | CH4O
product | 5-Dimethylsulfamoyl-isophthalic acid monomethyl ester | COC(C1=CC(C(=O)O)=CC(=C1)S(N(C)C)(=O)=O)=O | C11H13NO6S
